US06211242B1
A mixture of 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-(2-formylphenyl)benzamide (150 mg), methylamine (38% in methanol, 0.5 ml) and 3 Å molecular sieves (500 mg) in methanol (10 ml) was stirred at ambient temperature overnight. Sodium borohydride (39 mg) was added to the solution and the mixture was stirred at ambient temperature for 4 hours. The mixture was diluted with chloroform and the solution was washed with saturated aqueous sodium hydrogen carbonate and brine. The organic phase was dried over magnesium sulfate and the solvent was evaporated in vacuo to give crude oil. The oil was purified by silica gel column (10 g, 2% methanol in chloroform) and the product was solidified with diethyl ether to give 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-(2-methylaminomethylphenyl)benzamide (160 mg) as a white powder.

reactant | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-(2-formylphenyl)benzamide | 150 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)C=O)C)C=C1 | C29H24N2O3
reactant | methylamine | 0.5 ml | CN | CH5N
reactant | Sodium borohydride | 39 mg | [BH4-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-(2-methylaminomethylphenyl)benzamide | 160 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)CNC)C)C=C1 | C30H29N3O2
